US08486952B2
To a mixture of tetrahydro-4H-pyran-4-one (18.52 mL, 200 mmol) and trimethyl orthoformate (100 mL, 914 mmol) at 0° C. was added Iodine (49.2 mL, 200 mmol) slowly over 10 min. When the addition was complete, the reaction mixture was allowed to stir at 0° C. for 30 min. and was then allowed to come to RT and stir until TLC indicated all starting material had been consumed (approx. 1 h). The reaction was then cooled to 0° C. and quenched by the slow addition of sat. aqu. sodium thiosulfate (300 mL). The resulting mixture was extracted with EtOAc (3×75 mL). The combined organic layers were washed with brine (100 mL), dried over MgSO4, filtered and concentrated in vacuo. Purification by flash chromatography (Silica, EtOAc/Hexanes) gave 3-iodo-4,4-dimethoxytetrahydro-2H-pyran (43.95 g, 162 mmol, 81% yield) as a yellow oil. 1H NMR (500 MHz, CDCl3) δ ppm 4.25 (1H, q, J=2.44 Hz), 3.93-4.01 (1H, m), 3.84-3.93 (2H, m), 3.57 (1H, td, J=11.75, 2.44 Hz), 3.19-3.30 (6H, m), 2.34 (1H, ddd, J=14.34, 12.21, 4.88 Hz), 1.80 (1H, dq, J=14.34, 2.44 Hz).

reactant | tetrahydro-4H-pyran-4-one | 200 mmol, 18.52 mL | O1CCC(CC1)=O | C5H8O2
reactant | trimethyl orthoformate | 914 mmol, 100 mL | C(OC)(OC)OC | C4H10O3
reactant | Iodine | 200 mmol, 49.2 mL | II | I2
product | 3-iodo-4,4-dimethoxytetrahydro-2H-pyran | 162 mmol, 43.95 g, 81% yield | IC1COCCC1(OC)OC | C7H13IO3
